US05750701
8-Benzyloxy-5-chloroacetylcarbostyril
A solution of 5-acetyl-8-benzyloxycarbostyril (1.75 g, 6 mMol) in 1,2-dichloroethane (60 ml)/methanol (40 ml) and benzyltrimethylammonium dichloroiodate (4.2 g, 12 mMol) was heated at 60° C. under an argon atmosphere for 2 hours.

reactant | 5-acetyl-8-benzyloxycarbostyril | 6 mMol, 1.75 g | C(C)(=O)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C18H15NO3
reactant | methanol | 40 ml | CO | CH4O
reactant | benzyltrimethylammonium dichloroiodate | 12 mMol, 4.2 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
product | 8-Benzyloxy-5-chloroacetylcarbostyril | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CCl)=O | C18H14ClNO3
